US04966985
synthesis of (1R,2S)-2-carboxymethylamino-1,2-diphenylethanol
2.50 g of (1R,2S)-2-carboxymethylamino-1,2-diphenylethanol mono sodium salt was dissolved in 60 ml of water and 1.2 M hydrochloric acid was added to adjust the pH at 8. The precipitated crystals were washed 2 times with water and 2 times with methanol. The washed crystals were dried under reduced pressure (about 2 mm Hg) at 70 ° C. for 12 h. Yield 1.95 g (84%); mp 249-251 ° C. (decomp.); [α]D21 +3.3 (c 1.00, 1M NaOH). IR (KBr): 3320, 3050, 2890, 1625, 1570, 1390, 760, 710, 700 cm-1 (the spectum is identical with that of (1S,2R)-form).

reactant | (1R,2S)-2-carboxymethylamino-1,2-diphenylethanol mono sodium salt | 2.50 g | [Na].C(=O)(O)CN[C@H]([C@H](O)C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | 1.2 M | Cl | ClH
solvent | water | 60 ml | O | H2O
product | (1R,2S)-2-carboxymethylamino-1,2-diphenylethanol | C(=O)(O)CN[C@H]([C@H](O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H17NO3
